US08110681B2
A mixture of ethyl 2-(bromomethyl)-5-nitrobenzoate (1.88 g, 6.52 mmol), 4-isopropylaniline (1.11 mL, 7.83 mmol) and N,N-diisopropylethylamine (1.36 mL, 7.83 mmol) in ethanol (75 mL) was heated in a sealed tube at 110° C. overnight. After this time, the mixture was cooled to room temperature and the solid collected by filtration to afford 2-(4-isopropylphenyl)-6-nitroisoindolin-1-one (1.45 g, 75%) as a yellow solid: mp 225-227° C.; 1H NMR (300 MHz, CDCl3) δ 8.77 (d, J=2.0 Hz, 1H) 8.48 (dd, J=8.3, 2.1 Hz, 1H), 7.76-7.69 (m, 3H), 7.32 (d, J=8.6 Hz, 2H), 2.94 (sept, J=6.9 Hz, 1H), 1.28 (d, J=6.9 Hz, 6H); ESI MS m/z 297 [M+H]+.

reactant | ethyl 2-(bromomethyl)-5-nitrobenzoate | 6.52 mmol, 1.88 g | BrCC1=C(C(=O)OCC)C=C(C=C1)[N+](=O)[O-] | C10H10BrNO4
reactant | 4-isopropylaniline | 7.83 mmol, 1.11 mL | C(C)(C)C1=CC=C(N)C=C1 | C9H13N
reactant | N,N-diisopropylethylamine | 7.83 mmol, 1.36 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | ethanol | 75 mL | C(C)O | C2H6O
product | 2-(4-isopropylphenyl)-6-nitroisoindolin-1-one | 1.45 g, 75% | C(C)(C)C1=CC=C(C=C1)N1C(C2=CC(=CC=C2C1)[N+](=O)[O-])=O | C17H16N2O3
